US07173129B2
4-{3E-[4-Methoxy-2-(2-morpholin-4-yl-ethoxy)-5-thien-2-ylphenyl]acryloyl}-N-(5-methyl-isoxazol-3-yl)benzenesulfonamide hydrochloride
4-Acetyl-N-(5-methylisoxazole-3-yl)benzenesulfonamide (Ex-1B, 0.30 g, 0.86 mmol) and 4-methoxy-2-(2-morpholin-4-ylethoxy)-5-thien-2-ylbenzaldehyde (Ex-14A, 0.24 g, 0.86 mmol) were dissolved in a dimethylformamide-methanol solution (6.0 mL, 7:3). After complete dissolution, lithium methoxide (0.13 g, 3.4 mmol) was added and the resulting orange slurry was stirred in the dark at room temperature for 1 h. Upon completion, as determined by HPLC, the mixture was diluted with water (8.0 mL), acidified with a 1 N hydrochloric acid solution, and extracted with ethyl acetate:tetrahydrofuran (1:1, 3×20 mL). The combined organic extracts were evaporated to dryness. The crude oil was taken up in ethanol (10 mL) and warmed to 60° C. to obtain complete dissolution and allowed to cool to room temperature. The resulting precipitate was collected on filter paper and dried in vacuo to yield 0.46 g (88%) of the title compound as a pale orange solid, mp>260° C. 1H-NMR (300 MHz, DMSO-d6) 8.34 (d, 2H, J=9.0 Hz), 8.32 (s, 1H), 8.12 (d, 1H, J=15.9 Hz), 8.03 (d, 2H, J=9.0 Hz), 7.93 (d, 1H, J=15.9 Hz), 7.69 (d, 1H, J=3.3 Hz), 7.56 (d, 1H, J=5.4 Hz), 7.15 (dd, 1H, J=5.4, 3.3 Hz), 6.92 (s, 1H), 6.18 (s, 1H), 4.65 (brs, 2H), 4.03 (s, 3H), 3.97 (brs, 4H), 3.69 (brs, 2H), 3.50–3.23 (brs, 4H), 2.31 (s, 3H). Anal. Calcd. for C30H32ClN3O7S2.H2O: C, 54.25; H, 5.16; N, 6.33; S, 9.66; Found: C, 54.10; H, 4.91; N, 6.39; S, 9.68. HRMS (ESI) Calcd. for C30H32ClN3O7S2: 610.1681 (—HCl) (M+H)+. Found: 610.1673.

reactant | 4-Acetyl-N-(5-methylisoxazole-3-yl)benzenesulfonamide | 0.86 mmol, 0.30 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NC1=NOC(=C1)C | C12H12N2O4S
reactant | 4-methoxy-2-(2-morpholin-4-ylethoxy)-5-thien-2-ylbenzaldehyde | 0.86 mmol, 0.24 g | COC1=CC(=C(C=O)C=C1C=1SC=CC1)OCCN1CCOCC1 | C18H21NO4S
reactant | lithium methoxide | 3.4 mmol, 0.13 g | C[O-].[Li+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dimethylformamide methanol | 6.0 mL | CN(C=O)C.CO
solvent | water | 8.0 mL | O | H2O
product | 4-{3E-[4-Methoxy-2-(2-morpholin-4-yl-ethoxy)-5-thien-2-ylphenyl]acryloyl}-N-(5-methyl-isoxazol-3-yl)benzenesulfonamide hydrochloride | 0.46 g, 88% | Cl.COC1=CC(=C(C=C1C=1SC=CC1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)NC1=NOC(=C1)C)OCCN1CCOCC1 | InChI=1S/C30H31N3O7S2.ClH/c1-21-18-30(31-40-21)32-42(35,36)24-8-5-22(6-9-24)26(34)10-7-23-19-25(29-4-3-17-41-29)28(37-2)20-27(23)39-16-13-33-11-14-38-15-12-33;/h3-10,17-20H,11-16H2,1-2H3,(H,31,32);1H/b10-7+;
